US07276516B2
Treat 3-(6-methoxy-cyclohex-1-enyl)-1H-indole (200 mg, 0.879 mmol) with 10% Pd/C (40 mg) in EtOAc under atmospheric hydrogenation conditions for 1.5 hours. Filter resulting solution over Celite to remove catalyst. Concentrate crude on rotovap and purify on silica gel chromatography to give 3-(2-Methoxy-cyclohexyl)-1H-indole (127 mg, 63% yield). Mass Spectrum (m/e): 230.03 (MH+), 228.14 (M−).

reactant | 3-(6-methoxy-cyclohex-1-enyl)-1H-indole | 0.879 mmol, 200 mg | COC1CCCC=C1C1=CNC2=CC=CC=C12 | C15H17NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 3-(2-Methoxy-cyclohexyl)-1H-indole | 127 mg, 63% yield | COC1C(CCCC1)C1=CNC2=CC=CC=C12 | C15H19NO
